US07037908B2
2-(2,6-difluorophenyl)-5-hydroxy-1-methyl-6-oxo-N-(1-phenylethyl)-1,6-dihydropyrimidine-4-carboxamide.
Prepared according to the procedure described for example 2 from 2-(2,6-difluoro-phenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester (31 mg, 0.1 mmol) and α-methylbenzylamine (61 mg, 0.5 mmol). The title product was obtained as an off-white solid (24.6 mg, 64% yield). 1HNMR (500 MHz, CDCl3) δ: 12.39 (1H, s), 7.71 (1H, d, J=7.94 Hz), 7.54–7.48 (1H, m), 7.36–7.25 (5H, m), 7.06 (2H, dd, J=14.65, 8.54 Hz), 5.22 (1H, qt, J=7.02 Hz), 3.40 (3H, s), 1.58 (3H, d, J=7.02 Hz). HRMS (ESI) calcd for C20H16F2N3O3 (M−H): 384.1160; found: 384.1161.

reactant | 2-(2,6-difluoro-phenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester | 0.1 mmol, 31 mg | C(C)OC(=O)C=1N=C(N(C(C1O)=O)C)C1=C(C=CC=C1F)F | C14H12F2N2O4
reactant | α-methylbenzylamine | 0.5 mmol, 61 mg | CC(C1=CC=CC=C1)N | C8H11N
product | 2-(2,6-difluorophenyl)-5-hydroxy-1-methyl-6-oxo-N-(1-phenylethyl)-1,6-dihydropyrimidine-4-carboxamide | FC1=C(C(=CC=C1)F)C=1N(C(C(=C(N1)C(=O)NC(C)C1=CC=CC=C1)O)=O)C | C20H17F2N3O3
